US08470859B2
1-(3-chlorobenzyl)-2-imino-5-methyl-1,2-dihydropyridine-3-carboxamide hydrobromide
To a solution of 2-amino-5-methylnicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 3-chlorobenzylbromide (0.31 g), and the mixture was stirred at 100° C. for 6 hr. The reaction mixture was diluted with ethyl acetate. The precipitate was collected by filtration and washed with ethyl acetate. The obtained precipitate was recrystallized from methanol-ethyl acetate to give the title compound (0.15 g).

reactant | 2-amino-5-methylnicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)C | C7H9N3O
reactant | 3-chlorobenzylbromide | 0.31 g | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-chlorobenzyl)-2-imino-5-methyl-1,2-dihydropyridine-3-carboxamide hydrobromide | 0.15 g | Br.ClC=1C=C(CN2C(C(=CC(=C2)C)C(=O)N)=N)C=CC1 | InChI=1S/C14H14ClN3O.BrH/c1-9-5-12(14(17)19)13(16)18(7-9)8-10-3-2-4-11(15)6-10;/h2-7,16H,8H2,1H3,(H2,17,19);1H
